US08349880B2
Step B (4): Methanolic ammonia (1.0 M, 25 mL, 25 mmol) was added to a flask charged with 1-(5-fluoro-4-isothiocyanato-2-methoxyphenyl)-3-methyl-1H-1,2,4-triazole (870 mg, 3.29 mmol) in a ice-water bath. After the addition was complete, the resulting slurry was stirred for 10 min and then allowed to warm to rt. After 24 h, the reaction mixture was concentrated in vacuo. The resulting solid was dried under high vacuum to afford 1-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea (930 mg, 100% yield). LC-MS (M+H)+ 282.1. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.84 (s, 1 H) 7.88 (d, J=6.41 Hz, 1 H) 7.57 (d, J=10.99 Hz, 1 H) 3.86 (s, 3 H) 2.36 (s, 3 H).

reactant | ammonia | 25 mmol, 1.0 M, 25 mL | N | H3N
reactant | 1-(5-fluoro-4-isothiocyanato-2-methoxyphenyl)-3-methyl-1H-1,2,4-triazole | 3.29 mmol, 870 mg | FC=1C(=CC(=C(C1)N1N=C(N=C1)C)OC)N=C=S | C11H9FN4OS
product | 1-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea | 930 mg, 100% yield | FC1=C(C=C(C(=C1)N1N=C(N=C1)C)OC)NC(=S)N | C11H12FN5OS
